US08937091B2
2-(N-methylpiperazyl)ethylphenylketone 8399
Acetophenone (120 mg), N-methylpiperazine (100 mg), and paraformaldehyde (36 mg) were reacted in dioxane (0.2 ml) at 150° C. for 2 hours.

reactant | Acetophenone | 120 mg | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | N-methylpiperazine | 100 mg | CN1CCNCC1 | C5H12N2
reactant | paraformaldehyde | 36 mg | C=O | CH2O
solvent | dioxane | 0.2 ml | O1CCOCC1 | C4H8O2
product | 2-(N-methylpiperazyl)ethylphenylketone | CN1C(CNCC1)CCC(=O)C1=CC=CC=C1 | C14H20N2O
